US05962682
In analogy to Example 121, by coupling 3-(4-tert-butyl-benzenesulphonylamino)-5-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-benzoic acid with 5-aminotetrazole there was obtained 3-(4-tert-butybenzenesulphonylamino)-5-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-N-(1H-tetrazol-5-yl)-benzamide as a white solid.

reactant | 3-(4-tert-butyl-benzenesulphonylamino)-5-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-benzoic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)OC)OCC(CO)O | C27H31NO9S
reactant | 5-aminotetrazole | NC1=NN=NN1 | CH3N5
product | 3-(4-tert-butybenzenesulphonylamino)-5-(2,3-dihydroxy-propoxy)-4-(3-methoxy-phenoxy)-N-(1H-tetrazol-5-yl)-benzamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=NN=NN2)C=C(C1OC1=CC(=CC=C1)OC)OCC(CO)O | C28H32N6O8S
